US07053107B2
N-(4-Hydroxy-but-2-ynyl)-2-[3-[2-(4-methyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzamide
Prepared in a similar manner to that described for Example 6 except using 2-[3-[2-(4-methyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid and 4-(tert-Butyl-dimethyl -silanyloxy)-but-2-ynylamine. 1H NMR (CDCl3): δ 9.48 (H, s), 8.46 (1H, d, J=5.3 Hz), 7.92 (1H, d, J=9.0 Hz), 7.83 (1H, d, J=16.2 Hz), 7.52 (1H, d, J=16.6 Hz), 7.46–7.41 (2H, m), 7.34–7.31 (3H, m), 7.12 (1H, dd, J=8.7, 1.9 Hz), 6.99 (1H, d, J=4.9 Hz), 6.81 (1H, t, J=6.8 Hz), 6.40 (1H, t, J=4.9 Hz), 5.62 (1H, dd, J=9.4, 3.0 Hz), 4.28–4.23 (4H, m), 4.08–4.01 (1H, m), 3.76–3.67 (1H, m), 2.63–2.49 (1H, m), 2.38 (3H, s), 2.22–2.06 (2H, m), 1.80–1.60 (3H, m).

reactant | 2-[3-[2-(4-methyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid | CC1=CC(=NC=C1)C=CC1=NN(C2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1)C1OCCCC1 | C27H26N4O3
reactant | 4-(tert-Butyl-dimethyl -silanyloxy)-but-2-ynylamine | C(C)(C)(C)[Si](OCC#CCN)(C)C | C10H21NOSi
product | N-(4-Hydroxy-but-2-ynyl)-2-[3-[2-(4-methyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzamide | OCC#CCNC(C1=C(C=CC=C1)NC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C=CC1=NC=CC(=C1)C)=O | C31H31N5O3
